US08980926B2
2,2-dichloro-N-[2-({4-[3-(trifluoromethyl)diazirin-3-yl]phenyl}carbonyl)-4-[2-(trimethylsilyl)ethynyl]phenyl]acetamide (18)
2-({4-[3-(trifluoromethyl)diazirin-3-yl]phenyl}carbonyl)-4-[2-(trimethylsilyl)ethynyl]aniline (47 mg, 0.12 mmol, 1 eq.) was dissolved in DCM (10 mL) and cooled to 0° C. Dichloroacetyl chloride (0.013 mL, 0.14 mmol, 1.15 eq.) was then added, and the reaction was stirred at 0° C. for 10 minutes. The reaction was then warmed to room temperature and stirred for 30 minutes. The solvent was evaporated, and the residue was purified by silica column (hexanes/ethyl acetate, 3:1), resulting in 57 mg (94%) of the title compound as a yellow oil. 1H NMR (500 MHz, CDCl3) δ 11.83 (s, 1H, CHCl2), 8.56 (d, J=8.7, 1H, Ar—H), 7.76 (d, J=9.1, 2H, Ar—H), 7.69 (dd, J=1.5, 8.8, 1H, Ar—H), 7.61 (d, J=1.8, 1H, Ar—H), 7.32 (d, J=8.2, 2H, Ar—H), 6.03 (s, 1H, NH), 0.19 (s, 9H, Si(CH3)3). 13C NMR (126 MHz, CDCl3) δ 197.81 (Ar2—CO), 163.13 (NCOC), 139.23 (C—Ar), 138.79 (C—Ar), 138.33 (C—Ar), 136.61 (C—Ar), 134.08 (C—Ar), 130.47 (C—Ar), 126.71 (q, J=1.23, C—Ar), 123.41 (C—Ar), 122.03 (q, J=274.68, CF3), 121.60 (C—Ar), 120.94 (C—Ar), 103.04 (CSi(CH3)3), 96.22 (CCSi(CH3)3), 67.16 (CCl2), 28.64 (q, J=40.83, CN2), 0.03 (Si(CH3)3). Exact Mass, 511.05. 509.4841 [M−H]−, 511.487 [M+H]+.

reactant | 2-({4-[3-(trifluoromethyl)diazirin-3-yl]phenyl}carbonyl)-4-[2-(trimethylsilyl)ethynyl]aniline | 0.12 mmol, 47 mg, 1 eq. | FC(C1(N=N1)C1=CC=C(C=C1)C(=O)C1=C(N)C=CC(=C1)C#C[Si](C)(C)C)(F)F | C20H18F3N3OSi
reactant | Dichloroacetyl chloride | 0.14 mmol, 0.013 mL, 1.15 eq. | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,2-dichloro-N-[2-({4-[3-(trifluoromethyl)diazirin-3-yl]phenyl}carbonyl)-4-[2-(trimethylsilyl)ethynyl]phenyl]acetamide | 57 mg, 94% | ClC(C(=O)NC1=C(C=C(C=C1)C#C[Si](C)(C)C)C(=O)C1=CC=C(C=C1)C1(N=N1)C(F)(F)F)Cl | C22H18Cl2F3N3O2Si
